US05273975
Bromine (10.2 g, 0.064 mol) was added to a stirred solution of N-(1-formyl-1,2,3,4-tetrahydro-3-quinolyl)formamide (14.0 g, 0.065 mol) in acetic acid (70 mL) containing anhydrous sodium acetate (10.2 g, 0.12 mol). The solution was stirred for 30 minutes and water (500 mL) was added. The precipitate was filtered off and air dried to give 15.8 g (86%) of N-(1-formyl-6-bromo-1,2,3,4-tetrahydro-3-quinolyl)formamide, mp 174°-178° C. A sample was recrystallized from ethanol for analysis; mp 178°-181° C.

reactant | Bromine | 0.064 mol, 10.2 g | BrBr | Br2
reactant | N-(1-formyl-1,2,3,4-tetrahydro-3-quinolyl)formamide | 0.065 mol, 14.0 g | C(=O)N1CC(CC2=CC=CC=C12)NC=O | C11H12N2O2
reactant | sodium acetate | 0.12 mol, 10.2 g | C(C)(=O)[O-].[Na+]
reactant | water | 500 mL | O | H2O
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | N-(1-formyl-6-bromo-1,2,3,4-tetrahydro-3-quinolyl)formamide | 15.8 g, 86% | C(=O)N1CC(CC2=CC(=CC=C12)Br)NC=O | C11H11BrN2O2
